US05668289
Step A: 3-Amino-6-propyl-2-(1H)-pyridinone
A mixture of 6-cyclopropyl-3-nitro-2-(1H)-pyridinone (2 g, 13.3 mmol) and 10% palladium on carbon (600 mg) in ethyl acetate (100 ml) was stirred at room temperature under an atmosphere of hydrogen overnight. The catalyst was removed by filtration through a bed of Celite and the filtrate concentrated to yield 1.63 g of product as a white microcrystalline solid. 1H NMR (CDCl3) δ 0.94 (t, J=7.3 Hz, 3 H), 1.67 (m, 2 H), 2.49 (t, J=7.5 Hz, 2 H), 4.00 (br s), 5.88 (d, J=7.1 Hz, 1 H), 6.59 (d, J=7.1 Hz, 1 H).

reactant | 6-cyclopropyl-3-nitro-2-(1H)-pyridinone | 13.3 mmol, 2 g | C1(CC1)C1=CC=C(C(N1)=O)[N+](=O)[O-] | C8H8N2O3
catalyst | palladium on carbon | 600 mg | [Pd] | Pd
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | 3-Amino-6-propyl-2-(1H)-pyridinone | 1.63 g | NC=1C(NC(=CC1)CCC)=O | C8H12N2O
